US08981085B2
N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-hydroxyacetamide (0.200 g, 0.694 mmol), (R)-tert-butyl pyrrolidin-3-ylcarbamate (0.388 g, 2.08 mmol), and DIEA (0.121 mL, 0.694 mmol, d 0.742) were placed in n-BuOH and heated to 135° C. for 8 hours. The reaction was then cooled to room temperature and concentrated to dryness. The resulting residue was purified by reverse phase chromatography (Biotage SP4, C-18 25M+, 5-75% CH3CN/water) to give the product (R)-tert-butyl 1-(5-bromo-3-(2-hydroxyacetamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrrolidin-3-ylcarbamate (0.150 g, 48% yield).

reactant | N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-hydroxyacetamide | 0.694 mmol, 0.200 g | BrC=1C(=C2C(=NC1)NC=C2NC(CO)=O)F | C9H7BrFN3O2
reactant | (R)-tert-butyl pyrrolidin-3-ylcarbamate | 2.08 mmol, 0.388 g | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | DIEA | 0.694 mmol, 0.121 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | CH3CN water | CC#N.O
solvent | n-BuOH | CCCCO | C4H10O
product | (R)-tert-butyl 1-(5-bromo-3-(2-hydroxyacetamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrrolidin-3-ylcarbamate | 0.150 g, 48% yield | BrC=1C(=C2C(=NC1)NC=C2NC(CO)=O)N2C[C@@H](CC2)NC(OC(C)(C)C)=O | C18H24BrN5O4
